.title kicad schematic

.include SN74LS451.sub
x1 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u3-pad2_ net-_u3-pad1_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ SN74LS451
* u3 net-_u3-pad1_ net-_u3-pad2_ y1 y2 dac_bridge_2
v4 b gnd pulse(0 5 0 0 0 4 8)
v5 a gnd pulse(0 5 0 0 0 2 4)
v2 s gnd pwl(0 0 16 0 17 5 32 5)
v3 c gnd pulse(0 5 0 0 0 8 16)
* u4 s c b a net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ adc_bridge_4
* u1 net-_u1-pad1_ gnd net-_u1-pad1_ gnd net-_u1-pad1_ gnd net-_u1-pad1_ gnd net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
* u2 gnd net-_u1-pad1_ gnd net-_u1-pad1_ gnd net-_u1-pad1_ gnd net-_u1-pad1_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ adc_bridge_8
v1 net-_u1-pad1_ gnd 5
a1 [net-_u3-pad1_ net-_u3-pad2_ ] [y1 y2 ] u3
a2 [s c b a ] [net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ ] u4
a3 [net-_u1-pad1_ gnd net-_u1-pad1_ gnd net-_u1-pad1_ gnd net-_u1-pad1_ gnd ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u1
a4 [gnd net-_u1-pad1_ gnd net-_u1-pad1_ gnd net-_u1-pad1_ gnd net-_u1-pad1_ ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ ] u2
* Schematic Name:                             dac_bridge_2, Ngspice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 32e-00 0e-00

* Control Statements 
.control
run
let a = v(a)
let b = v(b) + 6
let c = v(c) + 12
let s = v(s) + 18
let y1 = v(y1) + 24
let y2 = v(y2) + 30
plot y1 y2
.endc
.end
