* c:\fossee\esim\library\subcircuitlibrary\sn74lvc1g3157\sn74lvc1g3157.cir

.include NMOS-5um.lib
.include PMOS-5um.lib
* u1  net-_u1-pad1_ net-_u1-pad2_ d_inverter
* u2  net-_u1-pad2_ net-_u2-pad2_ d_inverter
* u5  net-_u2-pad2_ net-_m2-pad2_ dac_bridge_1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad4_ mos_p W=100u L=100u M=1
m3 net-_m1-pad1_ net-_m2-pad2_ net-_m1-pad3_ net-_m3-pad4_ mos_n W=100u L=100u M=1
m2 net-_m1-pad1_ net-_m2-pad2_ net-_m2-pad3_ net-_m1-pad4_ mos_p W=100u L=100u M=1
m4 net-_m1-pad1_ net-_m4-pad2_ net-_m2-pad3_ net-_m3-pad4_ mos_n W=100u L=100u M=1
* u4  net-_u1-pad2_ net-_m4-pad2_ dac_bridge_1
* u3  net-_u1-pad2_ net-_m1-pad2_ dac_bridge_1
* u6  net-_m1-pad3_ net-_m3-pad4_ net-_m2-pad3_ net-_m1-pad1_ net-_m1-pad4_ net-_u1-pad1_ port
a1 net-_u1-pad1_ net-_u1-pad2_ u1
a2 net-_u1-pad2_ net-_u2-pad2_ u2
a3 [net-_u2-pad2_ ] [net-_m2-pad2_ ] u5
a4 [net-_u1-pad2_ ] [net-_m4-pad2_ ] u4
a5 [net-_u1-pad2_ ] [net-_m1-pad2_ ] u3
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u1 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
